US04205074
1-(1,1-Diphenyl-1-hydroxymethyl)indolizidine
A solution of 2.40 g. of 1-ethoxycarbonylindolizidine in 20 ml. of dry ether was dropwise added to a solution of phenyl lithium prepared from 0.51 g. of metal lithium, 6.32 g. of bromobenzene and 50 ml. of dryether under ice cooling. After refluxing for about 10 mins., water was dropwise added to the reaction mixture. The mixture was extracted with ether. The ethereal layer was extracted with a diluted hydrochloric acid solution and the aqueous layer was adjusted to alkaline with a causting soda solution and then extracted with ether. The ethereal layer was washed with water and dried. After removing the solvent by distillation, 3.58 g. of yellowish viscous substance was obtained. This substance was crystallized. By recrystallization from isopropyl ether, colorless needles with a melting point of 120°-121° C. was obtained.

reactant | 1-ethoxycarbonylindolizidine | C(C)OC(=O)C1CCN2CCCCC12 | C11H19NO2
reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | lithium | [Li] | Li
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 1-(1,1-Diphenyl-1-hydroxymethyl)indolizidine | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1CCN2CCCCC12 | C21H25NO
